US04207228
Preparation of trans-4,4-dimethyl-decahydro-1,5-benzodiazepin-2-one:
10.8 g β,β-dimethylacrylic acid was placed in a 250 ml flask, and 10 ml toluene was added followed by 11.4 g 1,2-diaminocyclohexane. The mixture is heated under an inert gas atmosphere, preferably argon, at 175°-180° C. with a Dean-Stark trap. 1.6 ml water was collected. The mixture is cooled down after 7 hr. Toluene was removed under vacuum. The reaction product obtained is recrystallized from acetone to give 2 g of a white crystalline product having a m.pt. of 188°-189° C.

reactant | β,β-dimethylacrylic acid | 10.8 g | CC(=CC(=O)O)C | C5H8O2
reactant | 1,2-diaminocyclohexane | 11.4 g | NC1C(CCCC1)N | C6H14N2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | trans-4,4-dimethyl-decahydro-1,5-benzodiazepin-2-one | 2 g | CC1(N[C@H]2[C@H](NC(C1)=O)CCCC2)C | C11H20N2O
